US04740512
Oxalyl chloride (1.82 g) is added to 100 mL of DMF dropwise under stirring and cooling (isopropanol-dry ice) maintaining the temperature below -20°. Stirring is continued for 30 minutes at the same temperature. To the mixture, 2.66 g of ethyl 6-benzyloxycarbonyloxy-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate is added in one portion, and stirring is continued for 2 hours at -30° to -20°, then at room temperature overnight. The reaction mixture is evaported to dryness and the residue is taken up in CH2Cl2, washed with saturated NaHCO3, dried (MgSO4) and evaporated to leave an oil which is purified by flash chromatography on a silica gel column obtaining ethyl 6-benzyloxycarbonyloxy-4-chloro-5,6,7,8-tetrahydroquinoline-3-carboxylate.

reactant | Oxalyl chloride | 1.82 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
reactant | ethyl 6-benzyloxycarbonyloxy-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate | 2.66 g | C(C1=CC=CC=C1)OC(=O)OC1CC=2C(=C(C=NC2CC1)C(=O)OCC)O | C20H21NO6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 6-benzyloxycarbonyloxy-4-chloro-5,6,7,8-tetrahydroquinoline-3-carboxylate | C(C1=CC=CC=C1)OC(=O)OC1CC=2C(=C(C=NC2CC1)C(=O)OCC)Cl | C20H20ClNO5
